US08304443B2
Ethyl6-(tert-butyldiphenylsilyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate
Ethyl6-tert-butyldiphenylsilyloxyindazole-3-carboxylate (1.461 g) which can be prepared according to the method described in Reference example 18, etc. was dissolved in toluene (16.5 mL; manufactured by Wako Pure Chemical Industries, Ltd.), added with 3,4-dihydro-2H-pyran (0.6 mL; manufactured by Tokyo Chemical Industry, Co., Ltd.) and toluene sulfonic acid-monohydrate (0.1293 g), followed by stirring overnight at 60° C. under nitrogen atmosphere. The reaction solution was poured to a saturated aqueous solution of sodium hydrogen carbonate and extracted once with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography “COLUMN-A”; n-hexane:ethyl acetate=96:4→75:25) to obtain the title compound (1.334 g).

reactant | Ethyl6-tert-butyldiphenylsilyloxyindazole-3-carboxylate | 1.461 g | C(C)OC(=O)C1=NNC2=CC(=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H28N2O3Si
reactant | 3,4-dihydro-2H-pyran | 0.6 mL | O1CCCC=C1 | C5H8O
reactant | toluene sulfonic acid-monohydrate | 0.1293 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 16.5 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl6-(tert-butyldiphenylsilyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate | 1.334 g | C(C)OC(=O)C1=NN(C2=CC(=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1OCCCC1 | C31H36N2O4Si
